US06133303
2-Furan-2-ylmethylene-6-[2-(1H-imidazole-4-yl)-ethoxy-]-3 4-dihydro-2H-naphthalen-1-one
According to the method of Example 32, 4-[2-(5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-ethyl]-imidazole-1-carboxylic acid tert-butyl ester (0.270 g, 0.75 mmol) was reacted with 2-furylaldehyde (0.095 mL, 1.14 mmol) in 5 mL of 4% KOH in EtOH overnight to afford 0.190 g (76%) of the title compound as a foam which solidified on standing to give a dark red powder, mp 57-60° C.: CI-MS m/e 335 (M+ +1).

reactant | 4-[2-(5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-ethyl]-imidazole-1-carboxylic acid tert-butyl ester | 0.75 mmol, 0.270 g | C(C)(C)(C)OC(=O)N1C=NC(=C1)CCOC1=CC=2CCCC(C2C=C1)=O | C20H24N2O4
reactant | KOH | 5 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 2-Furan-2-ylmethylene-6-[2-(1H-imidazole-4-yl)-ethoxy-]-3 4-dihydro-2H-naphthalen-1-one | 0.190 g, 76% | O1C(=CC=C1)C=C1C(C2=CC=C(C=C2CC1)OCCC=1N=CNC1)=O | C20H18N2O3
